* AD8051 SPICE Macro-model
* Description: Amplifier
* Generic Desc: Single 110 MHz rail-to-rail op amp - 3V
* Developed by: JCH / ADI
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (09/1998)
* Copyright 1998, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
* CMRR IS NOT MODELED
*    
* Parameters modeled include:
* THIS MODEL IS FOR SINGLE SUPPLY OPERATION (+5V)
*
* END Notes
*	
* Node assignments
*                 noninverting input
*                 |       inverting input  
*                 |       |       positive supply
*                 |       |       |       negative supply
*                 |       |       |       |       output
*                 |       |       |       |       |
*                 |       |       |       |       |
.SUBCKT AD8051  1       2       99      50      45
*
* INPUT STAGE
*
Q1  4  3  5 QPI
Q2  6  2  7 QPI
RC1   50  4 20.5k
RC2   50  6 20.5k
RE1    5  8 5k
RE2    7  8 5k 
EOS    3  1 POLY(1) 53 98 1.7E-3 1 
IOS    1  2 0.1u
FNOI1  1  0 VMEAS2 1E-4
FNOI2  2  0 VMEAS2 1E-4

CPAR1  3 50 1.7p
CPAR2  2 50 1.7p
VCMH1 99  9 1
VCMH2 99 10 1
D1     5  9  DX
D2     7 10 DX
IBIAS 99  8 73u
*
* INTERNAL VOLTAGE REFERENCE
*
EREF1 98  0 POLY(2) 99 0 50 0 0 0.5 0.5
EREF2 97  0 POLY(2)  1 0 2 0 0 0.5 0.5
GREF2 97 0 97 0 1E-6
*
*VOLTAGE NOISE STAGE
*
DN1 51 52 DNOI1
VN1 51 98 0.61
VMEAS 52 98 0
RNOI1 52 98 6.5E-3

H1 53 98 VMEAS 1
RNOI2 53 98 1
*
*CURRENT NOISE STAGE
*
DN2 61 62 DNOI2
VN2 61 98 0.545
VMEAS2 62 98 0
RNOI3  62 98 2E-4
*
* INTERMEDIATE GAIN STAGE WITH POLE = 96MHz
*
G1   98 20 4 6 1E-3 
RP1  98 20 550
CP1  98 20 3p
*
* GAIN STAGE WITH DOMINANT POLE
*
G4   98 30 20 98 2.6E-3
RG1 30 98 155k
CF1  30 45 13.5p
D5 31 99 DX
D6 50 32 DX
V1 31 30 0.6
V2 30 32 0.6
*
* OUTPUT STAGE
*
Q3  45 42 99 QPOX
Q4  45 44 50 QNOX
EO3 99 42 POLY(1) 98 30 0.7175 0.5
EO4 44 50 POLY(1) 30 98 0.7355 0.5
*
* MODELS
*
.MODEL QPI PNP (IS=8.6E-18,BF=91,VAF=30.6)
.MODEL QNOX NPN(IS=6.37E-16,BF=100,VAF=90,RC=3)
.MODEL QPOX PNP(IS=1.19E-15,BF=112,VAF=19.2,RC=6)
.MODEL DX D(IS=1E-16)
.MODEL DZ D(IS=1E-14,BV=6.6)
.MODEL DNOI1 D(KF=9E-10)
.MODEL DNOI2 D(KF=1E-8)
.ENDS AD8051




